US07582642B2
(2-Fluoro-9-isopropyl-9H-purin-6-yl)-pyridin-3-ylmethyl-amine
To a stirred solution of (2-fluoro-9H-purin-6-yl)-pyridin-3-ylmethyl-amine (1.00 g, 1 eq, 4.10 mmol) in DMA (12 mL) under an argon atmosphere, at RT, was added K2CO3 (powdered, anhydrous, 2.75 g, 4.85 eq, 19.90 mmol) followed 2-bromopropane (3.75 mL, 9.75 eq, 39.93 mmol). The reaction mixture was stirred at RT for 48 h, when TLC (CHCl3:MeOH; 90:10) indicated that the reaction had gone to completion. The solvent was evaporated in vacuo and the residue partitioned between water (200 mL) and EtOAc (100 mL), the aqueous phase was separated and extracted with more EtOAc (2×50 mL). The bulked organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo, and the residue was purified by gradient column chromatography on silica gel, eluted with CHCl3:MeOH (100:0→95:5), to afford the title compound as a white solid. Yield: 0.73 g (62%). Mp 131-133° C. 1H-NMR (d6-DMSO, 250 MHz): δ1.49 (2×s, 6H, —CH(CH3)2), 4.63 (m, 3H, —CH(CH3)2 & —HNCH2-Pyr), 7.34, 7.24, 8.44, 8.58 (4×m, 4H, Pyr), 8.26 (s, 1H, —N═CH—N—), 8.95 (bs, 1H, —HNCH2-Pyr). FABMS m/z (relative intensity): 287 ([M+H]+, 100), 245 (8), 154 (23), 136 (18). Accurate Mass (M+H): Actual: 287.1420, Measured: 287.1412. Microanalysis (Expected: Measured) C14H15N6F: C, 58.73; 58.57; H, 5.28; 5.21; N, 29.35; 29.27.

reactant | (2-fluoro-9H-purin-6-yl)-pyridin-3-ylmethyl-amine | 4.10 mmol, 1.00 g, 1 eq | FC1=NC(=C2N=CNC2=N1)NCC=1C=NC=CC1 | C11H9FN6
reactant | K2CO3 | 19.90 mmol, 2.75 g, 4.85 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 39.93 mmol, 3.75 mL, 9.75 eq | BrC(C)C | C3H7Br
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMA | 12 mL | CC(=O)N(C)C | C4H9NO
solvent | MeOH | CO | CH4O
product | (2-Fluoro-9-isopropyl-9H-purin-6-yl)-pyridin-3-ylmethyl-amine | FC1=NC(=C2N=CN(C2=N1)C(C)C)NCC=1C=NC=CC1 | C14H15FN6
